US06087380
1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-N-(3-ethoxycarbonyl-n-propyl)-N-phenyl-amide-hydrochloride
Prepared analogously to Example 32 from 1-methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-N-(3-ethoxycarbonyl-n-propyl)-N-phenyl-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 57% of theory, C28H31N5O5S (549.7) EKA mass spectrum: (M+H)+ =550

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-N-(3-ethoxycarbonyl-n-propyl)-N-phenyl-amide | C(C)OC(=O)CCCN(S(=O)(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C#N)C)C=C1)C1=CC=CC=C1 | C28H28N4O5S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-N-(3-ethoxycarbonyl-n-propyl)-N-phenyl-amide-hydrochloride | Yield: 57% | Cl.C(C)OC(=O)CCCN(S(=O)(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)C1=CC=CC=C1 | InChI=1S/C28H31N5O5S.ClH/c1-3-37-27(34)10-7-17-33(21-8-5-4-6-9-21)39(35,36)23-15-16-25-24(18-23)31-26(32(25)2)19-38-22-13-11-20(12-14-22)28(29)30;/h4-6,8-9,11-16,18H,3,7,10,17,19H2,1-2H3,(H3,29,30);1H
